US08754242B2
A mixture of (1RS,2RS,6SR,7SR)-8-bromo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione (300 mg, 0.82 mmol), 4-fluorophenylboronic acid (171 mg, 1.22 mmol), sodium 2′-dicyclohexylphosphino-2,6-dimethoxy-1,1-biphenyl-3-sulfonate hydrate (17 mg, 0.03 mmol), potassium phosphate (522 mg, 2.5 mmol) and palladium acetate (4 mg, 0.02 mmol) in water (8 ml) are heated for 150° C. for 25 minutes under microwave irradiation. The mixture is cooled to room temperature and dilute aqueous hydrochloric acid is added. The mixture is filtered and the filtrate is extracted with ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is concentrated under reduced pressure. Purification by column chromatography on silica gel gives (1RS,2SR,6RS,7RS)-8-(4-fluorophenyl)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione.

reactant | (1RS,2RS,6SR,7SR)-8-bromo-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-en-3,5-dione | 0.82 mmol, 300 mg | BrC=1C2C3C(C(C(C3C(C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O | C18H17BrO3
reactant | 4-fluorophenylboronic acid | 1.22 mmol, 171 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium 2′-dicyclohexylphosphino-2,6-dimethoxy-1,1-biphenyl-3-sulfonate hydrate | 0.03 mmol, 17 mg | O.C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
reactant | potassium phosphate | 2.5 mmol, 522 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 8 ml | O | H2O
catalyst | palladium acetate | 0.02 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1RS,2SR,6RS,7RS)-8-(4-fluorophenyl)-4-(2,4,6-trimethylphenyl)-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | FC1=CC=C(C=C1)C=1C2C3C(C(C(C3C(C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O | C24H21FO3
